US06949573B2
Ethyl 2-chloro-5-fluoronicotinate (5.09 g, 25 mmol see reference J. Med. Chem., 1993, 36(18) 267-88) and 3,4-dichlorophenol (6.11 g, 37.5 mmol) were dissolved in 1,4-dioxane and the solution was purged with argon. Anhydrous caesium carbonate (12.21 g, 37.5 mmol) was added and the mixture was heated under reflux for 17 hours. The reaction mixture was partitioned between water (300 ml) and ethyl acetate (300 ml). The aqueous layer was acidified to pH 3 by addition of 2M hydrochloric acid and the phases were separated. The aqueous layer was extracted with ethyl acetate (2-fold 100 ml) and the combined organic solutions were dried over magnesium sulphate and concentrated in-vacuo to give a red oil. The material isolated was redissolved in ethyl acetate and was washed with 5% potassium carbonate solution (2-fold 200 ml), 0.5 M sodium hydroxide solution (2-fold 200 ml) and saturated sodium hydrogen carbonate solution (100 ml). The organic phase was dried over magnesium sulphate and concentrated in-vacuo. The residue was purified by chromatography on silica gel using ethyl acetate in pentane as eluant (4:96) to give 2-(3,4-dichloro-phenoxy)-5-fluoro-nicotinic acid ethyl ester as a colourless oil that crystallised on standing (4.95 g).

reactant | Ethyl 2-chloro-5-fluoronicotinate | 25 mmol, 5.09 g | ClC1=C(C(=O)OCC)C=C(C=N1)F | C8H7ClFNO2
reactant | 3,4-dichlorophenol | 37.5 mmol, 6.11 g | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | caesium carbonate | 37.5 mmol, 12.21 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3,4-dichloro-phenoxy)-5-fluoro-nicotinic acid ethyl ester | C(C)OC(C1=C(N=CC(=C1)F)OC1=CC(=C(C=C1)Cl)Cl)=O | C14H10Cl2FNO3
